US07737166B2
4-Amino-3-cyano-6-fluoro-5-methoxy-2-methylbiphenyl (I-39)
Under nitrogen atmosphere, 2-amino-5-bromo-4-fluoro-3-methoxy-6-methylbenzonitrile (I-45) (20.0 g, 77.20 mmol), phenylboronic acid (11.3 g, 92.64 mmol), potassium phosphate (34.4 g, 162.11 mmol) were dissolved in a mixed liquid of 1,4-dioxane (400 ml) and water (20 ml), tetrakis(triphenylphosphine)palladium (2.6 g, 2.32 mmol) was added, followed by stirring at 110° C. for 15 hours. After cooling, the insoluble matter was separated by filtration through Celite, the reaction solvent was evaporated away under reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water and saturated brine, the organic layer was dried over anhydrous sodium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography, eluted wrath a mixed solvent of n-hexane/ethyl acetate (3:1, v/v) to obtain the entitled compound (20.12 g, quant) as a yellow white solid.

reactant | 2-amino-5-bromo-4-fluoro-3-methoxy-6-methylbenzonitrile | 77.20 mmol, 20.0 g | NC1=C(C#N)C(=C(C(=C1OC)F)Br)C | C9H8BrFN2O
reactant | phenylboronic acid | 92.64 mmol, 11.3 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 162.11 mmol, 34.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 2.32 mmol, 2.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Amino-3-cyano-6-fluoro-5-methoxy-2-methylbiphenyl | NC1=C(C(=C(C(=C1OC)F)C1=CC=CC=C1)C)C#N | C15H13FN2O
